US06703533B1
A solution of (CF3)2CFOCF2CF2I (21.3 g) in isopropanol (8 mL) was added dropwise to a suspension of Al chips (1 g) and HgCl2 (0.4 g) in isopropanol (30 mL). After the exothermic reaction was completed, the reaction mixture was stirred for 1 hour at 55° C. The reaction mixture was then distilled and a fraction with a b.p. of less then 80° C. was collected. This fraction was washed with an aqueous HCl solution and then distilled over conc. H2SO4 to give (CF3)2CFOCF2CHF2 (11.8 g, 80% yield), b.p. 44 to 46° C. The 1H and 19F NMR were in accord with the assigned structure:

reactant | (CF3)2CFOCF2CF2I | 21.3 g | C(F)(C(F)(F)F)(C(F)(F)F)OC(F)(F)C(F)(F)I | C5F11IO
solvent | isopropanol | 8 mL | C(C)(C)O | C3H8O
solvent | isopropanol | 30 mL | C(C)(C)O | C3H8O
catalyst | HgCl2 | 0.4 g | Cl[Hg]Cl
product | (CF3)2CFOCF2CHF2 | 11.8 g, 80% yield | C(F)(C(F)(F)F)(C(F)(F)F)OC(F)(F)C(F)F | C5HF11O
